US07674807B2
To an ethanol solution of ethyl 3-(3-methyl-4-nitro-phenyl)-3-oxo-propionate (3.0 g), hydrazine monohydrate (0.9 g) and a small amount of p-toluenesulfonic acid were added and the mixture was refluxed for 5 hours. After cooling, the solvent was distilled off under the reduced pressure and the obtained residue was purified by silica gel column chromatography to obtain 5-(3-methyl-4-nitro-phenyl)-2,4-dihydro-pyrazol-3-one (2.6 g). mp; 218-219° C.

reactant | ethyl 3-(3-methyl-4-nitro-phenyl)-3-oxo-propionate | 3.0 g | CC=1C=C(C=CC1[N+](=O)[O-])C(CC(=O)OCC)=O | C12H13NO5
reactant | hydrazine monohydrate | 0.9 g | O.NN
reactant | p-toluenesulfonic acid | C1(=CC=C(C=C1)S(=O)(=O)O)C | C7H8O3S
solvent | ethanol | C(C)O | C2H6O
product | 5-(3-methyl-4-nitro-phenyl)-2,4-dihydro-pyrazol-3-one | 2.6 g | CC=1C=C(C=CC1[N+](=O)[O-])C=1CC(NN1)=O | C10H9N3O3
